US06387912B1
e) N-(1-Naphthyl)piperazine
83.2 g (966 mmol) of piperazine, 38.0 g (339 mmol) of potassium tert-butoxide and 50.0 g (241 mmol) of 1-bromonaphthalene were added to a mixture of 5,4 g (24.2 mmol) of palladium acetate and 14.7 g (48.3 mmol) of tri-o-tolylphosphipe in 500 ml of xylene, and the reaction mixture was heated at reflux for 10 h, while stirring thoroughly and under a nitrogen atmosphere. After that, the mixture was diluted with methylene chloride, the insoluble residues were filtered off and the filtrate was evaporated. The crude product was purified by column chromatography (silica gel, eluent THF/methanol/ammonia 85/13/2). 21.5 g (42%) of product having a m.p. of 84-86° C. were isolated.

reactant | piperazine | 966 mmol, 83.2 g | N1CCNCC1 | C4H10N2
reactant | potassium tert-butoxide | 339 mmol, 38.0 g | CC(C)([O-])C.[K+]
reactant | 1-bromonaphthalene | 241 mmol, 50.0 g | BrC1=CC=CC2=CC=CC=C12 | C10H7Br
solvent | xylene | 500 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | palladium acetate | 24.2 mmol, 5,4 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | N-(1-Naphthyl)piperazine | C1(=CC=CC2=CC=CC=C12)N1CCNCC1 | C14H16N2
